US07777047B2
N-{2-[5-(hydroxymethyl)-1,3,4-thiadiazol-2-yl]-1H-indol-7-yl}-N-methylthiophene-2-sulfonamide
To a mixture of ethyl 5-{7-[methyl(2-thienylsulfonyl)amino]-1H-indol-2-yl}-1,3,4-thiadiazole-2-carboxylate (1.38 g), tetrahydrofuran (20 ml) and methanol (4 ml) was added sodium borohydride (0.26 g), and the mixture was stirred at room temperature for 30 min. The reaction mixture was concentrated, and water was added to the residue. The resulting crystals were collected by filtration, washed with water, and dried to give the title compound (1.18 g, yield 94%) as colorless crystals. melting point 259-260° C. (decomposition).

reactant | ethyl 5-{7-[methyl(2-thienylsulfonyl)amino]-1H-indol-2-yl}-1,3,4-thiadiazole-2-carboxylate | 1.38 g | CN(C=1C=CC=C2C=C(NC12)C1=NN=C(S1)C(=O)OCC)S(=O)(=O)C=1SC=CC1 | C18H16N4O4S3
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
reactant | sodium borohydride | 0.26 g | [BH4-].[Na+]
solvent | methanol | 4 ml | CO | CH4O
product | N-{2-[5-(hydroxymethyl)-1,3,4-thiadiazol-2-yl]-1H-indol-7-yl}-N-methylthiophene-2-sulfonamide | 1.18 g, yield 94% | OCC1=NN=C(S1)C=1NC2=C(C=CC=C2C1)N(S(=O)(=O)C=1SC=CC1)C | C16H14N4O3S3
